US07276518B2
N′-[2-(1H-Indol-3-yl)-ethyl]-N,N-dimethyl-1-naphthalen-2-yl-cyclohexane-1,4-diamine dihydrochloride, nonpolar diastereomer
The dihydrochloride of the nonpolar diastereomer of N′-[2-(1H-indol-3-yl)-ethyl]-N,N-dimethyl-1-naphthalen-2-yl-cyclohexane-1,4-diamine was obtained analogously to the examples described above by reductive amination of 4-dimethylamino-4-naphthalen-2-yl-cyclohexanone with tryptamine.

reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | N′-[2-(1H-indol-3-yl)-ethyl]-N,N-dimethyl-1-naphthalen-2-yl-cyclohexane-1,4-diamine | N1C=C(C2=CC=CC=C12)CCNC1CCC(CC1)(N(C)C)C1=CC2=CC=CC=C2C=C1 | C28H33N3
reactant | 4-dimethylamino-4-naphthalen-2-yl-cyclohexanone | CN(C1(CCC(CC1)=O)C1=CC2=CC=CC=C2C=C1)C | C18H21NO
reactant | tryptamine | NCCC1=CNC2=CC=CC=C12 | C10H12N2
product | N′-[2-(1H-Indol-3-yl)-ethyl]-N,N-dimethyl-1-naphthalen-2-yl-cyclohexane-1,4-diamine dihydrochloride | Cl.Cl.N1C=C(C2=CC=CC=C12)CCNC1CCC(CC1)(N(C)C)C1=CC2=CC=CC=C2C=C1 | InChI=1S/C28H33N3.2ClH/c1-31(2)28(24-12-11-21-7-3-4-8-22(21)19-24)16-13-25(14-17-28)29-18-15-23-20-30-27-10-6-5-9-26(23)27;;/h3-12,19-20,25,29-30H,13-18H2,1-2H3;2*1H
